US07985753B2
7-Bromo-1-methyl-1,2,3,4-tetrahydro-isoquinoline
In close analogy to the procedure described above, 7-bromo-1-methyl-3,4-dihydro-isoquinoline is reacted with sodium triacetoxyborohydride to provide the title compound.

reactant | 7-bromo-1-methyl-3,4-dihydro-isoquinoline | BrC1=CC=C2CCN=C(C2=C1)C | C10H10BrN
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 7-Bromo-1-methyl-1,2,3,4-tetrahydro-isoquinoline | BrC1=CC=C2CCNC(C2=C1)C | C10H12BrN
